US08859573B2
2-(4-Chloro-3-(trifluoromethyl)phenoxy)-5-(((2-oxo-1-(pyridin-3-ylmethyl)-1,2-dihydropyrimidin-4-yl)oxy)methyl)benzonitrile
The title compound was prepared by a procedure similar to that described for E1 starting from 2-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-5-{[(2-oxo-2,3-dihydro-4-pyrimidinyl)oxy]methyl}benzonitrile and 3-(chloromethyl)pyridine hydrochloride. LC-MS (ESI): m/z 513 [M+H]+; 2.94 min (ret time).

reactant | 2-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-5-{[(2-oxo-2,3-dihydro-4-pyrimidinyl)oxy]methyl}benzonitrile | ClC1=C(C=C(C=C1)OC1=C(C#N)C=C(C=C1)COC=1NC(N=CC1)=O)C(F)(F)F | C19H11ClF3N3O3
reactant | 3-(chloromethyl)pyridine hydrochloride | Cl.ClCC=1C=NC=CC1
product | 2-(4-Chloro-3-(trifluoromethyl)phenoxy)-5-(((2-oxo-1-(pyridin-3-ylmethyl)-1,2-dihydropyrimidin-4-yl)oxy)methyl)benzonitrile | ClC1=C(C=C(OC2=C(C#N)C=C(C=C2)COC2=NC(N(C=C2)CC=2C=NC=CC2)=O)C=C1)C(F)(F)F | C25H16ClF3N4O3
